US08492582B2
To a solution mixture of the obtained methyl 2-(2-(benzyloxy)-5-(2-(4-(3-hydroxypropyl)piperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate (0.036 g) in ethyl acetate (1.5 mL) and methanol (1.5 mL), 10% palladium-carbon (0.018 g) was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours and 30 hours. To the reaction mixture, 10% palladium-carbon (0.018 g) was added, followed by stirring under a hydrogen atmosphere at room temperature for 3 hours. The insoluble substance was removed by filtration, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 100-90% chloroform/methanol] to obtain 0.011 g of methyl 2-(2-hydroxy-5-(2-(4-(3-hydroxypropyl)piperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate as a light yellow solid.

reactant | methyl 2-(2-(benzyloxy)-5-(2-(4-(3-hydroxypropyl)piperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate | 0.036 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCCN1CCN(CC1)CCCO | C37H41N3O6
solvent | ethyl acetate | 1.5 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1.5 mL | CO | CH4O
catalyst | palladium-carbon | 0.018 g | [C].[Pd]
catalyst | palladium-carbon | 0.018 g | [C].[Pd]
product | methyl 2-(2-hydroxy-5-(2-(4-(3-hydroxypropyl)piperazin-1-yl)ethoxy)benzamido)-4-phenylbenzoate | 0.011 g | OC1=C(C(=O)NC2=C(C(=O)OC)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)OCCN1CCN(CC1)CCCO | C30H35N3O6
